US07612075B2
(1S)-[1-(2-oxo-propylcarbamoyl)-ethyl]-carbamic acid tertbutyl ester (5.93 g, 24.3 mmol) is stirred in a solution of 30% trifluoroacetic acid in methylene chloride (100 mL) for three hours. The solvents are removed in vacuo. The residue is dissolved in 50 mL of MeOH and transferred to a par bottle. Palladium on carbon (10%, 1.0 g) is added, and the mixture is hydrogenated under pressure for 24 hours. The catalyst is filtered off; the MeOH is removed in vacuo to afford (3S, 5RS)-3,5-dimethyl-piperazin-2-one which is directly protected with a benzyl carbamate without further purification.

reactant | (1S)-[1-(2-oxo-propylcarbamoyl)-ethyl]-carbamic acid tertbutyl ester | 24.3 mmol, 5.93 g | C(C)(C)(C)OC(N[C@@H](C)C(NCC(C)=O)=O)=O | C11H20N2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | (3S, 5RS)-3,5-dimethyl-piperazin-2-one | C[C@H]1C(NCC(N1)C)=O | C6H12N2O
